US08283353B2
3′-fluoro-4′-{[4-(cis-3-hydroxycyclobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile
To a mixture of 4′-{[4-(3-acetylcyclobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile (2.8 g), 30% hydrogen peroxide (48 mL) and chloroform (50 mL) was gradually added dropwise trifluoroacetic acid anhydride (32 mL), and the mixture was heated under reflux for 15 hr. Saturated aqueous sodium hydrogen carbonate solution and aqueous sodium thiosulfate solution were gradually added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, the residue was mixed with tetrahydrofuran (30 mL), methanol (30 mL) and 1 M aqueous sodium hydroxide solution (30 mL), and the mixture was stirred at room temperature for 1 hr. The reaction mixture was neutralized with 1 M hydrochloric acid. After evaporation of the solvent under reduced pressure, the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. The residue obtained by purification by silica gel column chromatography was mixed with Dess-Martin periodinane (2.8 g) and acetonitrile (15 mL), and the mixture was stirred at room temperature for 2 hr. Saturated aqueous sodium hydrogen carbonate solution and aqueous sodium thiosulfate solution were added to the reaction mixture. After evaporation of the solvent under reduced pressure, the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure. 33% of the residue was dissolved in tetrahydrofuran (3 mL) and methanol (5 mL), sodium tetrahydroborate (0.094 g) was added at 0° C., and the mixture was stirred at room temperature for 14 hr. Saturated aqueous ammonium chloride solution was added to the reaction mixture, the solvent was evaporated under reduced pressure, and the residue was extracted with ethyl acetate. The organic layer was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography to give the title compound as a colorless solid (0.67 g, 75%).

reactant | 4′-{[4-(3-acetylcyclobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}-3′-fluorobiphenyl-2-carbonitrile | 2.8 g | C(C)(=O)C1CC(C1)N1C=2N(C(=C(C1=O)CC1=C(C=C(C=C1)C=1C(=CC=CC1)C#N)F)CCC)N=CN2 | C28H26FN5O2
reactant | hydrogen peroxide | 48 mL | OO | H2O2
reactant | trifluoroacetic acid anhydride | 32 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
reactant | sodium thiosulfate | S(=S)(=O)([O-])[O-].[Na+].[Na+]
reactant | Dess-Martin periodinane | 2.8 g | CC(=O)OI1(C=2C=CC=CC2C(=O)O1)(OC(=O)C)OC(=O)C | C13H13IO8
solvent | acetonitrile | 15 mL | C(C)#N | C2H3N
solvent | chloroform | 50 mL | C(Cl)(Cl)Cl | CHCl3
product | 3′-fluoro-4′-{[4-(cis-3-hydroxycyclobutyl)-5-oxo-7-propyl-4,5-dihydro[1,2,4]triazolo[1,5-a]pyrimidin-6-yl]methyl}biphenyl-2-carbonitrile | 0.67 g, 75% | FC=1C=C(C=CC1CC=1C(N(C=2N(C1CCC)N=CN2)[C@@H]2C[C@@H](C2)O)=O)C=2C(=CC=CC2)C#N | C26H24FN5O2
